US09302991B2
<Step-1>: methyl 4-((1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)-6-methylpicolinate (single enantiomer)
The title compound is prepared from (+)-1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (Amine-5, single enantiomer) and 2-(methoxycarbonyl)-6-methylisonicotinic acid by the similar manner in Step-1 of Example 8.

reactant | (+)-1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | Cl.ClC=1C=C(C=NC1OCC(F)(F)F)C(C)N
reactant | 2-(methoxycarbonyl)-6-methylisonicotinic acid | COC(=O)C=1C=C(C(=O)O)C=C(N1)C | C9H9NO4
product | methyl 4-((1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)-6-methylpicolinate | ClC=1C=C(C=NC1OCC(F)(F)F)C(C)NC(=O)C1=CC(=NC(=C1)C)C(=O)OC | C18H17ClF3N3O4
